US04202899
8-Ethyl-5-(4-methyl-1-piperazinyl)-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester
3.5 g of 5-chloro-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester (0.01 mol) are dissolved in 20 ml of butanol. 2 g of N-methylpiperazine are added and the solution is refluxed with stirring for 12 hours. After evaporation of the solvent, the residue is extracted three times with 50 ml portions of ethyl acetate. The ethyl acetate is distilled off until the volume is about 30 ml. The 8-ethyl-5-(4-methyl-1-piperazinyl)-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester crystallizes, yield 3.1 g (76%); m.p. 111°-113° (ethyl acetate).

reactant | 5-chloro-8-ethyl-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | 0.01 mol, 3.5 g | ClC1=NC=2N(C3=C1C=NC1=C3C=NN1CC)N=CC2C(=O)OCC | C15H13ClN6O2
reactant | N-methylpiperazine | 2 g | CN1CCNCC1 | C5H12N2
solvent | butanol | 20 ml | C(CCC)O | C4H10O
product | 8-Ethyl-5-(4-methyl-1-piperazinyl)-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine-3-carboxylic acid, ethyl ester | C(C)N1N=CC2=C1N=CC=1C(=NC=3N(C12)N=CC3C(=O)OCC)N3CCN(CC3)C | C20H24N8O2
